US04010177
In the manner given in Example 47, 2'-chloro-2-[3-(hydroxymethyl)-5-[(dimethylamino)methyl]-4H-1,2,4-triazol-4-yl]benzophenone is treated first with methanesulfonyl chloride followed by allylamine to give 2'-chloro-2-[3-[(allylamino)methyl]-5-[(dimethylamino)methyl]-4H-1,2,4-triazol-4-yl]benzophenone.

reactant | 2'-chloro-2-[3-(hydroxymethyl)-5-[(dimethylamino)methyl]-4H-1,2,4-triazol-4-yl]benzophenone | ClC1=C(C=CC=C1)C(C1=C(C=CC=C1)N1C(=NN=C1CN(C)C)CO)=O | C19H19ClN4O2
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
reactant | allylamine | C(C=C)N | C3H7N
product | 2'-chloro-2-[3-[(allylamino)methyl]-5-[(dimethylamino)methyl]-4H-1,2,4-triazol-4-yl]benzophenone | ClC1=C(C=CC=C1)C(C1=C(C=CC=C1)N1C(=NN=C1CN(C)C)CNCC=C)=O | C22H24ClN5O
